US07442805B2
Ethyl 5-amino-1-benzyl-1H,1′H-3,5′-biindole-2-carboxylate was prepared from ethyl 1-benzyl-5-nitro-1H,1′H-3,5′-biindole-2-carboxylate followed the procedure of Example 1 Step 2 as a white solid: 1H NMR (DMSO-d6) δ 0.89 (t, J=7.1 Hz, 3H, 4.06 (q, J=7.1 Hz, 2H, 5.81 (s, 2H, 6.47 (t, J=2.0 Hz, 1H, 7.08 (d, J=7.1 Hz, 2H, 7.10-7.50 (m, 8H), 7.58 (s, 1H, 7.70 (d, J=8.9 Hz, 1H, 9.28 (br s, 2H, 11.18 (s, 1H; MS (ESI) m/z 410 (MH+); HRMS calcd for C26H24N3O2: 410.1867 found (ESI+): 410.1858; Anal. calcd for C26H23N3O2.1.0 TFA: C, 64.24; H, 4.62; N, 8.03. Found: C, 63.85; H, 4.77; N, 7.91.

reactant | ethyl 1-benzyl-5-nitro-1H,1′H-3,5′-biindole-2-carboxylate | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C=1C=C2C=CNC2=CC1)C(=O)OCC | C26H21N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | Ethyl 5-amino-1-benzyl-1H,1′H-3,5′-biindole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C=1C=C2C=CNC2=CC1 | C26H23N3O2
